US05670505
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(4-nitrobenzyl)piperazine (360 mg), iron powder (360 mg), ammonium chloride (36 mg) and water (1.5 ml) in ethanol (6 ml) was heated under reflux for 40 minutes. After cooling, the reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was purified by column chromatography on a silica gel eluting with a mixture of dichloromethane and methanol (10:1) to give (2R)-4-(4-aminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (0.34 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(4-nitrobenzyl)piperazine | 360 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC2=CC=C(C=C2)[N+](=O)[O-])CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C29H24F6N4O3
reactant | ammonium chloride | 36 mg | [Cl-].[NH4+]
reactant | water | 1.5 ml | O | H2O
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | iron | 360 mg | [Fe] | Fe
product | (2R)-4-(4-aminobenzyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 0.34 g | NC1=CC=C(CN2C[C@H](N(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)CC2=CNC3=CC=CC=C23)C=C1 | C29H26F6N4O
